US05283248
5-Chloro-N-cyclopropyl-4-fluoro-2-nitroaniline (460 mg, 2 mmol) is heated to 80° for 40 hours with L-proline tert-butyl ester (342 mg, 2 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (304 mg, 2 mmol). The reaction mixture is then dissolved in a water/ethyl acetate mixture (1:1, 100 ml). The ethyl acetate phase is washed with 10 percent sodium chloride solution, dried over magnesium sulfate and evaporated under reduced pressure. The residue is chromatographed on silica gel (eluent: hexane/ethyl acetate 8:2). The product is crystallized from ether/n-hexane. There are obtained 94 mg (13%) of tert-butyl rac-1-[5-(cyclopropylamino)-2-fluoro-4-nitro-phenyl]pyrrole-2-carboxylate with a m.p. of 142°-143°.

reactant | 5-Chloro-N-cyclopropyl-4-fluoro-2-nitroaniline | 2 mmol, 460 mg | ClC=1C(=CC(=C(NC2CC2)C1)[N+](=O)[O-])F | C9H8ClFN2O2
reactant | L-proline tert-butyl ester | 2 mmol, 342 mg | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2 mmol, 304 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | water ethyl acetate | 100 ml | O.C(C)(=O)OCC
product | tert-butyl rac-1-[5-(cyclopropylamino)-2-fluoro-4-nitro-phenyl]pyrrole-2-carboxylate | 94 mg, 13% | C1(CC1)NC=1C(=CC(=C(C1)N1C(=CC=C1)C(=O)OC(C)(C)C)F)[N+](=O)[O-] | C18H20FN3O4
